US05439917
Preparation of 3-cyanomethyl-2-methyl-7-phenacyl-pyrrolo[2,3-b]pyridine hydrochloride.
A solution of 1.0 g (5.8 mmol) of 3-cyano-methyl-2-methyl pyrrolo[2,3-b]pyridine and 1.08 g (7.0 mmol) of phenacyl chloride in 50 ml acetonitrile was refluxed for 14 h. Working up in the same manner as described in example 17 gave 0,5 g 58% of the desired title compound.

reactant | 3-cyano-methyl-2-methyl pyrrolo[2,3-b]pyridine | 5.8 mmol, 1.0 g | C(#N)C1=C(NC2=NC=CC(=C21)C)C | C10H9N3
reactant | phenacyl chloride | 7.0 mmol, 1.08 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-cyanomethyl-2-methyl-7-phenacyl-pyrrolo[2,3-b]pyridine hydrochloride | 0,5 g, 58% | Cl.C(#N)CC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C | InChI=1S/C18H15N3O.ClH/c1-13-15(9-10-19)16-8-5-11-21(18(16)20-13)12-17(22)14-6-3-2-4-7-14;/h2-8,11H,9,12H2,1H3;1H
